US07314937B2
7-(3-Piperidin-1-yl-propoxy)-2-(propane-2-sulfonyl)-1,2,3,4-tetrahydro-isoquinoline is prepared from 7-(3-piperidin-1-yl-propoxy)-1,2,3,4-tetrahydro-isoquinoline dihydrochloride (175 mg, 0.5 mmol), NEt3 (0.25 mL, 1.8 mmol), and isopropylsulfonyl chloride (0.07 mL, 0.60 mmol) via a procedure substantially analogous to Procedure F except that an additional SCX column purification step is performed to give the product (93 mg, 49% yld). MS(ES+) 381.1(M+H)+.

reactant | 7-(3-piperidin-1-yl-propoxy)-1,2,3,4-tetrahydro-isoquinoline dihydrochloride | 0.5 mmol, 175 mg | Cl.Cl.N1(CCCCC1)CCCOC1=CC=C2CCNCC2=C1
reactant | NEt3 | 1.8 mmol, 0.25 mL | CCN(CC)CC | C6H15N
reactant | isopropylsulfonyl chloride | 0.60 mmol, 0.07 mL | C(C)(C)S(=O)(=O)Cl | C3H7ClO2S
product | 7-(3-Piperidin-1-yl-propoxy)-2-(propane-2-sulfonyl)-1,2,3,4-tetrahydro-isoquinoline | N1(CCCCC1)CCCOC1=CC=C2CCN(CC2=C1)S(=O)(=O)C(C)C | C20H32N2O3S
